** Generated for: hspiceD
** Generated on: Nov 30 22:42:36 2024
** Design library name: 555_project
** Design cell name: INV_rvt
** Design view name: schematic

** Library name: 555_project
** Cell name: INV_rvt
** View name: schematic
mn0 out in vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mp1 out in vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
